US05302711
7β-amino-3-chloro-3-cephem-4-carboxylic acid
To a slurry of 3.7 g (10 mmol) of p-nitrobenzyl 7β-amino-3-chloro-3-cephem-4-carboxylate and 61 ml of tetrahydrofuran, was added 8.03 g (60 mmol) of lithium iodide. The resulting reaction mixture was then heated to reflux and allowed to react for about 21/2 hours. The solution was cooled to complete the precipitation of lithium 7β-amino-3-chloro-3-cephem-4-carboxylate. This precipitate was isolated by filtration, slurried in 25 ml of tetrahydrofuran and then acidified to a pH of 3.7 with 1N hydrochloric acid resulting in the formation of a light solid. This solid was isolated by filtration and washed with a 25:3 tetrahydrofuran/water solution to provide 0.59 g of the desired titled product.

reactant | p-nitrobenzyl 7β-amino-3-chloro-3-cephem-4-carboxylate | 10 mmol, 3.7 g | N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | lithium iodide | 60 mmol, 8.03 g | [I-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 61 ml | O1CCCC1 | C4H8O
product | 7β-amino-3-chloro-3-cephem-4-carboxylic acid | 0.59 g | N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C7H7ClN2O3S
